US20010047099A1
To a solution of titanium tetrachloride (0.015 mol, 2.8 g) in tetrahydrofuran (50 mL) was added lithium aluminum hydride (0.0175 mol, 0.7 g). The black slurry was stirred 15 min before adding methyl 6-bromo-3-chloro-4-nitropyridine-2-carboxylate, N-oxide (0.007 mol, 2.3 g) in THF (25 mL). The solution was stirred 1 hr before pouring into 1:1 H2O/NH4OH and filtering. The filtrate was extracted with EtOAc (2×75 mL). The organic phase was dried (Na2SO4), and concentrated. The red solid was chromatographed over silica in 4:1 EtOAc/hexane to give methyl 4-amino-6-bromo-3-chloropyridine-2-carboxylate (0.003 mol, 0.8 g); mp 194-5° C. 1H NMR(CDCl3): δ 3.95 (3H, s), 5.3 (2H, bs), 6.9 (1H, s).

reactant | lithium aluminum hydride | 0.0175 mol, 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-bromo-3-chloro-4-nitropyridine-2-carboxylate | BrC1=CC(=C(C(=N1)C(=O)OC)Cl)[N+](=O)[O-] | C7H4BrClN2O4
reactant | H2O NH4OH | O.[NH4+].[OH-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | titanium tetrachloride | 0.015 mol, 2.8 g | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 4-amino-6-bromo-3-chloropyridine-2-carboxylate | 0.003 mol, 0.8 g | NC1=C(C(=NC(=C1)Br)C(=O)OC)Cl | C7H6BrClN2O2
